US07368578B2
A mixture of 4-chloromethyl-2-ethyl-1,3-oxazole (3.26 g), triethyl phosphite (8.19 g) was stirred at 160° C. for 16 hrs. Excess triethyl phosphite was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1, v/v), ethyl acetate, then ethyl acetate-ethanol (10:1, v/v) to give diethyl [(2-ethyl-1,3-oxazol-4-yl)methyl]phosphonate as a colorless oil (3.86 g, yield 70%).

reactant | 4-chloromethyl-2-ethyl-1,3-oxazole | 3.26 g | ClCC=1N=C(OC1)CC | C6H8ClNO
reactant | triethyl phosphite | 8.19 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | diethyl [(2-ethyl-1,3-oxazol-4-yl)methyl]phosphonate | 3.86 g, yield 70% | C(C)C=1OC=C(N1)CP(OCC)(OCC)=O | C10H18NO4P
